US06063810
51.82 ml of a 1.5 molar solution of DIBAL-H in toluene are added dropwise to a solution, cooled to -78° C. with a bath of solid carbon dioxide and acetone, of 10 g (35.3 mmol) of 2-ethyloxycarbonyl-3-methyl-7-bromobenzofuran in 100 ml of toluene. The solution is allowed to return to room temperature and 50 ml of water and 100 ml of a saturated solution of Rochelle salt are successively added. Extraction is carried out with ethyl acetate (3×80 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. The residue is purified by silica column chromatography (elution solvent: 2% methanol in dichloromethane). 6.3 g (Yield: 74%) of 2-hydroxymethyl-3-methyl-7-bromobenzofuran are obtained--M.p.: 103° C.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 2-ethyloxycarbonyl-3-methyl-7-bromobenzofuran | 35.3 mmol, 10 g | C(C)OC(=O)C=1OC2=C(C1C)C=CC=C2Br | C12H11BrO3
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2-hydroxymethyl-3-methyl-7-bromobenzofuran | 6.3 g, Yield: 74% | OCC=1OC2=C(C1C)C=CC=C2Br | C10H9BrO2
